US06956042B2
1-Methyl-7-(5-phenoxy-3-pyridyl)-1,7-diazaspiro[4.4]nonane
To a stirring solution of 7-(5-phenoxy-3-pyridyl)-1,7-diazaspiro[4.4]nonane (420 mg, 1.42 mmol) in 37% aqueous solution of formaldehyde (5 mL) was added 98% formic acid (3 mL) under nitrogen. The reaction mixture was heated to reflux for 8 h. The reaction mixture was cooled to room temperature, then basified with saturated aqueous sodium bicarbonate to pH 8-9 and extracted with chloroform (4×15 mL). The combined chloroform extracts were dried (Na2SO4), filtered and concentrated by rotary evaporation to afford a thick brown viscous liquid. This was distilled using a Kugelrohr apparatus (2 mm, 180° C.) to give a very pale cream-colored syrup (400 mg, 90.9%).

reactant | 7-(5-phenoxy-3-pyridyl)-1,7-diazaspiro[4.4]nonane | 1.42 mmol, 420 mg | O(C1=CC=CC=C1)C=1C=C(C=NC1)N1CC2(CCCN2)CC1 | C18H21N3O
reactant | formaldehyde | 5 mL | C=O | CH2O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | formic acid | 3 mL | C(=O)O | CH2O2
product | 1-Methyl-7-(5-phenoxy-3-pyridyl)-1,7-diazaspiro[4.4]nonane | 400 mg, 90.9% | CN1CCCC12CN(CC2)C=2C=NC=C(C2)OC2=CC=CC=C2 | C19H23N3O
